US07598423B2
Synthesis of 3-(3-hydroxymethyl-phenyl)-4H-[1,2,4]oxadiazol-5-one
Add 10% hydrochloric acid (100 ml) to a solution of 3-[3-(tetrahydro-pyran-2-yloxymethyl)-phenyl]-4H-[1,2,4]oxadiazol-5-one (4.50 g, 16.3 mmol) in tetrahydrofuran (0.1M) and stir. After 18 hours, pour reaction into brine and extract with ethyl acetate. Combine the organic layers, dry with sodium sulfate, filter and concentrate under reduced pressure to yield the title product as a white solid (3.10 g, 99%): 1H NMR (DMSO-d6) δ 4.57 (s, 2H), 7.55 (m, 2H), 7.67 (dt, 1H), 7.81 (m, 1H), 12.95 (bs, 1H).

reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | 3-[3-(tetrahydro-pyran-2-yloxymethyl)-phenyl]-4H-[1,2,4]oxadiazol-5-one | 16.3 mmol, 4.50 g | O1C(CCCC1)OCC=1C=C(C=CC1)C1=NOC(N1)=O | C14H16N2O4
solvent | tetrahydrofuran | 0.1M | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3-(3-hydroxymethyl-phenyl)-4H-[1,2,4]oxadiazol-5-one | 3.10 g, 99% | OCC=1C=C(C=CC1)C1=NOC(N1)=O | C9H8N2O3
